US08791161B2
N-{5-chloro-2-[(3-nitrobenzyl)thio]phenyl}-1-benzofuran-2-sulfonamide
Following General Procedure G, the title compound was prepared from N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) Intermediate 8 and 1-bromomethyl-3-nitro-benzene.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC1=C(C2)C=CC=C1 | C28H18Cl2N2O6S4
reactant | 1-bromomethyl-3-nitro-benzene | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
product | N-{5-chloro-2-[(3-nitrobenzyl)thio]phenyl}-1-benzofuran-2-sulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCC2=CC(=CC=C2)[N+](=O)[O-] | C21H15ClN2O5S2
